US06337423B1
Rat Sciatic Nerve Sucrose-Gap Assay
The Ringer solution contained: 124 mM NaCl, 3 mM KCl, 1.3 mM NaH2PO4. 2 mM MgCl2H2O, 2 mM MgCl2-6H2O, 26 mM NaHCO3, and 10 mM Dextrose. The pH was adjusted to 7-7.5 using bubbled 95% O2-5% CO2. This Ringer solution was used for storing nerves and for filling the two stimulating pools (500 ul) and the recording “intracellular” pool.

reactant | NaCl | 124 mM | [Na+].[Cl-]
reactant | KCl | 3 mM | [Cl-].[K+]
reactant | NaHCO3 | 26 mM | C(=O)(O)[O-].[Na+]
reactant | Dextrose | 10 mM | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | Sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
